US05750549
5-Phenylimidazo-[5,1-b]-thiazole-7-carboxaldehyde
Phosphorus oxychloride (0.6 mL, 6.44 mmol) was added to DMF (2.5 mL) over 5 minutes with cooling in an ice-bath. 5-Phenylimidazo-[5,1-b]-thiazole (500 mg, 2.5 mmol) was added, and the mixture was kept overnight at room temperature. The thick solid that had formed was slurried in methylene chloride and stirred for 30 minutes with 10% aqueous sodium carbonate solution. The organic layer was separated, washed with saturated brine solution and evaporated. The title compound was obtained after flash chromatography eluting with 20% acetone in hexane.

reactant | Phosphorus oxychloride | 6.44 mmol, 0.6 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 2.5 mL | CN(C)C=O | C3H7NO
reactant | 5-Phenylimidazo-[5,1-b]-thiazole | 2.5 mmol, 500 mg | C1(=CC=CC=C1)C1=NC=C2SC=CN21 | C11H8N2S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-Phenylimidazo-[5,1-b]-thiazole-7-carboxaldehyde | C1(=CC=CC=C1)C1=NC(=C2SC=CN21)C=O | C12H8N2OS
